US08957066B2
(2-Chloro-4-(methoxycarbonyl)benzyl)triphenylphosphonium bromide (1.04 g, 1.98 mmol) was dissolved in N,N-dimethylformamide (DMF, 20 mL) and the solution was cooled to 0° C. A 60% suspension of NaH in paraffin oil (80 mg, 2.00 mmol) was added and the reaction mixture was stirred at 0° C. for 15 mins. A solution of tert-butyl 3-oxoazetidine-1-carboxylate (0.32 g, 1.87 mmol) in anhydrous DMF (5 mL) was added and the reaction mixture was heated overnight at 65° C. After completion of the reaction as indicated by HPLC/MS, the cooled reaction mixture was diluted with EtOAC (20 mL) and quenched with a saturated NH4Cl solution (10 mL). The organic layer was washed with water (3×20 mL) and brine (15 mL). It was then dried over anhydrous Na2SO4, filtered and evaporated to get the crude product. This crude was purified by silica gel column chromatography using 50-80% EtOAc in Hexanes as eluent to provide tert-butyl 3-(2-chloro-4-(methoxycarbonyl)benzylidene)azetidine-1-carboxylate (0.27 g) as a white solid. ES+(M+Na)+360.

reactant | (2-Chloro-4-(methoxycarbonyl)benzyl)triphenylphosphonium bromide | 1.98 mmol, 1.04 g | [Br-].ClC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)C(=O)OC
reactant | NaH | [H-].[Na+]
reactant | tert-butyl 3-oxoazetidine-1-carboxylate | 1.87 mmol, 0.32 g | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | DMF | 5 mL | CN(C=O)C | C3H7NO
product | tert-butyl 3-(2-chloro-4-(methoxycarbonyl)benzylidene)azetidine-1-carboxylate | 0.27 g | ClC1=C(C=C2CN(C2)C(=O)OC(C)(C)C)C=CC(=C1)C(=O)OC | C17H20ClNO4
